US04082850
Reaction of 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-acetic acid, Example 2, with 2-propanol as described in Example 3 provides isopropyl 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-acetate as colorless crystals, mp 67°-68.5° C.

reactant | 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-acetic acid | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CC(=O)O | C16H12O4
reactant | 2-propanol | CC(C)O | C3H8O
product | isopropyl 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-acetate | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CC(=O)OC(C)C | C19H18O4
